US06355653B1
7-(2-Ethyl-pyridin-4-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%):316(M+,100), was prepared in accordance with the general method of example 1 from 2-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine and (E)-3-(2-ethyl-pyridin-4-yl)-acrylonitrile.

reactant | 2-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine | C1(=CC=CC=C1)S(=O)(=O)CC=1N=C(NN1)C1=NC=CC=C1 | C14H12N4O2S
reactant | (E)-3-(2-ethyl-pyridin-4-yl)-acrylonitrile | C(C)C1=NC=CC(=C1)/C=C/C#N | C10H10N2
product | 7-(2-Ethyl-pyridin-4-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C(C)C1=NC=CC(=C1)C1=CC=2N(C(=C1)N)N=C(N2)C2=NC=CC=C2 | C18H16N6
